US08975398B2
tert-butyl 4-(4-(1-(benzyloxycarbonyl)azetidin-3-ylcarbamoyl)phenoxy)piperidine-1-carboxylate
The title compound was prepared as described in Example 1A, substituting benzyl 3-aminoazetidine-1-carboxylate for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate and 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)benzoic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid.

reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | 4-(1-(tert-butoxycarbonyl)piperidin-4-yloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C(=O)O)C=C1 | C17H23NO5
reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
product | tert-butyl 4-(4-(1-(benzyloxycarbonyl)azetidin-3-ylcarbamoyl)phenoxy)piperidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CC(C1)NC(=O)C1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C28H35N3O6
